US08110578B2
7-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(tetrahydro-pyran-4-yl)-ethyl]-3,4-dihydro-1H-pyrazino[2,3-b]pyrazin-2-one
7-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(tetrahydro-pyran-4-yl)-ethyl]-3,4-dihydro-1H-pyrazino[2,3-b]pyrazin-2-one. A mixture of 1-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (See Example 15.C) (1 equiv), 4-bomo-pyrrolo[2,3-b]pyridine-1-carboxylic acid tent-butyl ester (1 equiv), tris(dibezylideneacetone) palladium (0.13 equiv), tri-o-tolylphosphine (0.25 equiv) and triethylamine (2.8 equiv) in anhydrous dioxane was purged, degassed for 2 min and stirred at 95° C. under nitrogen for 3-4 h. Upon completion of the reaction as indicated by TLC, the volatiles were removed under reduced pressure and the residue was purified by column chromatography to give the desired product in 35% yield. MS (ESI) m/z 479.7 [M+1]+. tert-Butyl 4-(7-oxo-8-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-5,6,7,8-tetrahydropyrazino[2,3-b]pyrazin-2-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate was stirred in methanolic hydrochloride solution at room temperature. Upon completion of the reaction as indicated by TLC, the solvent was removed under reduced pressure and the residue was purified on silica gel to give the title compound in 63% yield. 1H NMR (DMSO-d6, 400 MHz) δ (ppm) 11.72 (s, 1H), 8.38 (s, 1H), 8.25 (d, J=4.8 Hz, 1H), 7.79 (s, 1H), 7.53-7.51 (m, 2H), 6.97 (q, J=1.6 Hz, 1H), 4.23 (s, 2H), 4.14 (t, J=7.6 Hz, 2H), 3.81 (dd, J1=2.4 Hz, J2=11.2 Hz, 2H), 3.25 (d, J=10.8 Hz, 2H), 1.67 (d, J=13.2 Hz, 2H), 1.61 (m, 3H), 1.22 (m, 2H); MS(ESI): m/z 379.2 [M+1]−.

reactant | tert-Butyl 4-(7-oxo-8-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-5,6,7,8-tetrahydropyrazino[2,3-b]pyrazin-2-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | O=C1CNC2=C(N1CCC1CCOCC1)N=C(C=N2)C2=C1C(=NC=C2)N(C=C1)C(=O)OC(C)(C)C | C25H30N6O4
solvent | hydrochloride | Cl | ClH
product | 7-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(tetrahydro-pyran-4-yl)-ethyl]-3,4-dihydro-1H-pyrazino[2,3-b]pyrazin-2-one | 63% yield | N1C=CC=2C1=NC=CC2C2=CN=C1C(=N2)N(C(CN1)=O)CCC1CCOCC1 | C20H22N6O2
